US08334236B2
1.62 g (6.1 mmol) of 2-oxo-1-phenyl-1,2-dihydro-1,8-naphthyridine-3-carboxylic acid was dissolved in dichloromethane (60 mL), and 3.7 mL (44 mmol) of oxalyl chloride was added thereto. One droplet of N,N-dimethylformamide was added to the above mixture, and the resulting mixture was stirred for one hour at 40° C. The reaction mixture was concentrated under reduced pressure, and thus 2-oxo-1-phenyl-1,2-dihydro-1,8-naphthyridine-3-carboxylic acid chloride was obtained. The acid chloride thus obtained was dissolved in dichloromethane (60 mL), and 0.75 g (6.7 mmol) of 1,3-cyclohexanedione and 1.03 mL (7.3 mmol) of triethylamine were added to the above solution. The resulting mixture was stirred for 2 hours at room temperature. The reaction mixture was poured into an aqueous solution of sodium hydrogen carbonate, and the mixture was extracted with dichloromethane. The organic phase was dried and concentrated. The residue was washed with diisopropyl ether, and thus 2.16 g (yield: 99%) of the title compound was obtained as a light yellow solid.

reactant | 2-oxo-1-phenyl-1,2-dihydro-1,8-naphthyridine-3-carboxylic acid | 6.1 mmol, 1.62 g | O=C1N(C2=NC=CC=C2C=C1C(=O)O)C1=CC=CC=C1 | C15H10N2O3
reactant | oxalyl chloride | 44 mmol, 3.7 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 2-oxo-1-phenyl-1,2-dihydro-1,8-naphthyridine-3-carboxylic acid chloride | O=C1N(C2=NC=CC=C2C=C1C(=O)Cl)C1=CC=CC=C1 | C15H9ClN2O2
